US07026409B2
A mixed solution of a mixture comprising the 4-methylperfluorobiphenyl mentioned above, an N-bromo succinic imide (NBS) (26.7 g, 150 mmol), AIBN (0.99 g, 6 mmol) andacarbon tetrachloride (100 mL) was subjected to heating under reflux for 1 week. During this process, the progress of the reaction was confirmed by TLC, and NBS and AIBN were added on a timely basis. Ultimately, 285 mmol NBS and 15 mmol AIBN were added to the solution. After the reaction was completed, the solution was cooled to room temperature, and the solvent was removed under reduced pressure. The crude product was purified by silica gel column chromatography (developing solvent: hexane-ethyl acetate=100:1), and the 4-(bromomethyl)perfluorobiphenyl (7.36 g, 18 mmol, total yield from methyl lithium 60%) was isolated.

reactant | 4-methylperfluorobiphenyl | CC1=C(C(=C(C(=C1F)F)C1=C(C(=C(C(=C1F)F)F)F)F)F)F | C13H3F9
reactant | N-bromo succinic imide | 150 mmol, 26.7 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | AIBN | 6 mmol, 0.99 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | NBS | 285 mmol | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | AIBN | 15 mmol | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
product | 4-(bromomethyl)perfluorobiphenyl | 18 mmol, 7.36 g, 60% | BrCC1=C(C(=C(C(=C1F)F)C1=C(C(=C(C(=C1F)F)F)F)F)F)F | C13H2BrF9
